US05576324
2-Bromomethyl-8-isopropyl-5-methyl-6,7-dihydrofuro[2,3-f]quinoline-7-one
6-Allyl-5-hydroxy-3-isopropyl-8-methylcarbostyril (1.50 g, 5.34 mmol) was dissolved in chloroform (100 ml). N-bromosuccinimide (1.10 g, 6.18 mmol) was added to the solution, and the mixture was stirred at 75° C. for 90 minutes. The reaction mixture was extracted from chloroform-water, and the organic phase was washed with saturated aqueous NaCl solution, dried, and condensed under reduced pressure. The residue was recrystallized from chloroform -ethyl acetate-ether to obtain 1.95 g of the title compound as pale yellow needles (99.4%).

reactant | 6-Allyl-5-hydroxy-3-isopropyl-8-methylcarbostyril | 5.34 mmol, 1.50 g | C(C=C)C=1C(=C2C=C(C(NC2=C(C1)C)=O)C(C)C)O | C16H19NO2
reactant | N-bromosuccinimide | 6.18 mmol, 1.10 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Bromomethyl-8-isopropyl-5-methyl-6,7-dihydrofuro[2,3-f]quinoline-7-one | 1.95 g, 99.4% | BrCC1=CC=2C(=C3C=C(C(NC3=C(C2)C)=O)C(C)C)O1 | C16H16BrNO2
